US04373106
In 50 ml of ethyl acetate was suspended 4.35 g (0.01 mole) of 5-{1-chloro-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methylbenzenesulfonamide hydrochloride and then 50 ml of an aqueous 10% sodium carbonate solution was added to the suspension with stirring. After further stirring overnight vigorously, the reaction mixture was recovered by decantation. After removing inorganic matters by passing the ethyl acetate layer thus recovered through a silica gel column (50 ml of silica gel), the reaction product was evaporated to dryness to provide 3.2 g (88%) of colorless resinous 5-{1-[2-(2-methoxyphenoxy)-ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide

reactant | 5-{1-chloro-2-[2-(2-methoxyphenoxy)ethylamino]ethyl}-2-methylbenzenesulfonamide hydrochloride | 0.01 mole, 4.35 g | Cl.ClC(CNCCOC1=C(C=CC=C1)OC)C=1C=CC(=C(C1)S(=O)(=O)N)C
reactant | sodium carbonate | C([O-])([O-])=O.[Na+].[Na+]
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
product | 5-{1-[2-(2-methoxyphenoxy)-ethyl]aziridin-2-yl}-2-methylbenzenesulfonamide | 3.2 g, 88% | COC1=C(OCCN2C(C2)C=2C=CC(=C(C2)S(=O)(=O)N)C)C=CC=C1 | C18H22N2O4S
